US09055749B2
Step 3. Synthesis of (4-{3-[2,6-bis(trifluoromethyl)pyridin-4-yl]-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl}-2-bromophenyl)methanol
4-{3-[2,6-bis(trifluoromethyl)pyridin-4-yl]-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl}-2-bromobenzyl acetate (0.5 g) and Sodium methoxide (0.005 g) in MeOH (10 ml) were stirred at room temperature for 30 minutes. The mixture was diluted with t-BuOMe, and washed with brine, and the organic layer was dried over MgSO4. After the solvent was evaporated under reduced pressure, the targeted product was obtained (0.4 g).

reactant | 4-{3-[2,6-bis(trifluoromethyl)pyridin-4-yl]-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl}-2-bromobenzyl acetate | 0.5 g | C(C)(=O)OCC1=C(C=C(C=C1)C=1CC(CN1)(C(F)(F)F)C1=CC(=NC(=C1)C(F)(F)F)C(F)(F)F)Br | C21H14BrF9N2O2
reactant | Sodium methoxide | 0.005 g | C[O-].[Na+]
solvent | MeOH | 10 ml | CO | CH4O
solvent | t-BuOMe | C(C)(C)(C)OC | C5H12O
product | (4-{3-[2,6-bis(trifluoromethyl)pyridin-4-yl]-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl}-2-bromophenyl)methanol | FC(C1=NC(=CC(=C1)C1(CN=C(C1)C1=CC(=C(C=C1)CO)Br)C(F)(F)F)C(F)(F)F)(F)F | C19H12BrF9N2O
